US05776983
B. α-(Aminomethyl)-N,N-dimethylbenzeneacetamide
To a stirred 4° C. CH2Cl2 solution (5 mL) containing HNMe2 (180 mg, 4 mmol) under N2, was added 2M AlMe3 in toluene (2 mL, 4 mmol). The reaction was warmed to 20° C. and stirred for five minutes before adding a CH2Cl2 solution (4 mL) containing α-[[(trifluoroacetyl)amino]methyl]benzeneacetic acid, ethyl ester (600 mg, 2.1 mmol). After two days, the reaction was quenched with 1 N aq. HCl, and extracted 3× with EtOAc. The EtOAc fractions were washed with brine, dried over Na2SO4, and concentrated. The crude product was chromatographed on silica gel using 4:1 hexane/EtOAc to elute 380 mg (63%) of the desired trifluoroacetamide which was heated to 60° C. for five hours in MeOH (2 mL) containing 1N aq. NaOH (3 mL). The reaction was diluted with brine, extracted 4× with EtOAc, dried over Na2SO4, and concentrated to yield the title compound as a clear oil (280 mg, 74%).

reactant | HNMe2 | 4 mmol, 180 mg | N(C)C | C2H7N
reactant | AlMe3 | 2M | C[Al](C)C
reactant | toluene | 4 mmol, 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | α-[[(trifluoroacetyl)amino]methyl]benzeneacetic acid, ethyl ester | 2.1 mmol, 600 mg | FC(C(=O)NCC(C(=O)OCC)C1=CC=CC=C1)(F)F | C13H14F3NO3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | α-(Aminomethyl)-N,N-dimethylbenzeneacetamide | 280 mg, 74% | NCC(C(=O)N(C)C)C1=CC=CC=C1 | C11H16N2O
